US04410354
Embodiment XIV--Tetrahydro-6-(3-methylenepentyl)-1,4-dioxepin-6-ol
To 0.99 g of dry magnesium shavings was added 14 ml of dry tetrahydrofuran and a small crystal of iodine. After 20 minutes, 0.25 ml of 1,2-dibromoethane was added by syringe and then 0.5 ml of a 70% tetrahydrofuran solution of 1,1,1-tris(chloromethyl)propane. The reaction mixture was warmed to reflux and more 70% 1,1,1-tris(chloromethyl)propane solution was added to total 5.29 g at a rate to maintain reflux. After the addition was complete, the reaction was refluxed for an additional half hour. After the addition of 10 ml of tetrahydrofuran, the reaction mixture was cooled to -60° C. and 2.06 g of 1,4-dioxepin-6-one in 10 ml of tetrahydrofuran was added dropwise. After 2.5 hours at -60° C., the reaction mixture was warmed to -20° C. and poured into a mixture of 200 ml of saturated ammonium chloride and diethyl ether. The resulting layers were separated and the aqueous layer was extracted twice with diethyl ether. The combined organic layers were washed with water, dried and stripped to yield 3.05 g of the desired product as a dark yellow liquid.

reactant | magnesium | 0.99 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1,2-dibromoethane | 0.25 ml | BrCCBr | C2H4Br2
reactant | 1,1,1-tris(chloromethyl)propane | ClCC(CC)(CCl)CCl | C6H11Cl3
reactant | 1,4-dioxepin-6-one | 2.06 g | O1C=COCC(C1)=O | C5H6O3
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Tetrahydro-6-(3-methylenepentyl)-1,4-dioxepin-6-ol | 3.05 g | C=C(CCC1(COCCOC1)O)CC | C11H20O3
